US09145419B2
54A. 8-Bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine
To a solution of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (1.2 g, 5.16 mmol) in chloroform (30 mL) were added NIS (1.161 g, 5.16 mmol) and TFA (0.795 mL, 10.32 mmol). The reaction mixture was stirred at room temperature for 2 h and quenched with NaHCO3. The organic layers were washed with brine and dried over Na2SO4. The crude product was purified by BIOTAGE® (100% CH2Cl2) to give the product (1.4 g, 76%). 1H NMR (400 MHz, CDCl3) δ ppm 7.91 (1H, s), 7.46 (1H, s); LC/MS: Rt=2.44 min. LC/MS (Condition A): 357.80/359.80/361.80.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 5.16 mmol, 1.2 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | NIS | 5.16 mmol, 1.161 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | TFA | 10.32 mmol, 0.795 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-6-chloro-3-iodoimidazo[1,2-b]pyridazine | 1.4 g, 76% | BrC=1C=2N(N=C(C1)Cl)C(=CN2)I | C6H2BrClIN3
